### PR TITLE
[Merged by Bors] - feat(Analysis/Polynomial/MahlerMeasure): the Mahler measure of a linear polynomial and applications

### PR DESCRIPTION
**Pull request by fbarroero**
We prove 
``
theorem logMahlerMeasure_X_sub_C (z : ℂ) : (X - C z).logMahlerMeasure = log⁺ ‖z‖
``
and 
``
theorem logMahlerMeasure_eq_log_leadingCoeff_add_sum_log_roots (p : ℂ[X]) : p.logMahlerMeasure =
    log ‖p.leadingCoeff‖ + ((p.roots).map (fun a ↦ log⁺ ‖a‖)).sum
``

---

- [x] depends on: #30681

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 1]
```diff
@@ -137,8 +139,148 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
...
+
+open MeromorphicOn Metric in
+/-- The logarithmic Mahler measure of `X - C z` is the `log⁺` of the absolute value of `z`. -/
+@[simp]
+theorem logMahlerMeasure_X_sub_C (z : ℂ) : (X - C z).logMahlerMeasure = log⁺ ‖z‖ := by
+  by_cases hz₀ : z = 0
+  · simp [hz₀, posLog_def]
+  have hmeroOn (U : Set ℂ) : MeromorphicOn (fun x ↦ x - z) U := MeromorphicOn.id.sub <| const z
+  have hmeroAt (u : ℂ) : MeromorphicAt (fun x ↦ x - z) u := hmeroOn (Eq u) u rfl
+  have hmeroBall : MeromorphicOn (fun x ↦ x - z) (closedBall 0 |1|) := hmeroOn (closedBall 0 |1|)
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: This looks like it is not used, at least not explicitly (and could be inlined anyway).

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 2]
```diff
@@ -137,8 +139,148 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
...
+  --get rid of the `meromorphicTrailingCoeffAt`
+  have : meromorphicTrailingCoeffAt (fun x ↦ (X - C z).eval x) 0 = -z := by
+    rw [(AnalyticAt.aeval_polynomial analyticAt_id (X - C z)).meromorphicTrailingCoeffAt_of_ne_zero
+      (by simp [hz₀])]
+    simp
+  rw [this]
+  simp only [eval_sub, eval_X, eval_C, zero_sub, norm_neg, one_mul, log_inv, mul_neg, log_one,
+    mul_zero, add_zero]
+  -- divisor computations
+  let B := closedBall (0 : ℂ) |1|
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: You could make and use this definition earlier.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 3]
```diff
@@ -137,8 +139,148 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
...
+          (divisor (fun x ↦ x - z) (closedBall 0 |1|))
+        grind [abs_one, mem_closedBall, dist_zero_right]
+      · exact hdiv0 hx
+    simp [this, posLog_eq_log_max_one <| norm_nonneg z, h1lez]
+
+@[simp]
+theorem logMahlerMeasure_X_add_C (z : ℂ) : (X + C z).logMahlerMeasure = log⁺ ‖z‖ := by
+  simp [← sub_neg_eq_add, ← map_neg]
+
+theorem logMahlerMeasure_C_mul_X_add_C {a : ℂ} (b : ℂ) (ha : a ≠ 0) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
theorem logMahlerMeasure_C_mul_X_add_C {a : ℂ} (ha : a ≠ 0) (b : ℂ) :
```
This ordering looks more natural.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 4]
```diff
@@ -137,8 +139,148 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
...
+  apply_fun exp at this
+  rwa [posLog_eq_log_max_one (norm_nonneg z),
+    exp_log (mahlerMeasure_pos_of_ne_zero <| X_sub_C_ne_zero z),
+    exp_log (lt_of_lt_of_le zero_lt_one <| le_max_left 1 ‖z‖)] at this
+
+@[simp]
+theorem mahlerMeasure_X_add_C (z : ℂ) : (X + C z).mahlerMeasure = max 1 ‖z‖ := by
+  simp [← sub_neg_eq_add, ← map_neg]
+
+theorem mahlerMeasure_C_mul_X_add_C {a : ℂ} (b : ℂ) (ha : a ≠ 0) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
theorem mahlerMeasure_C_mul_X_add_C {a : ℂ} (ha : a ≠ 0) (b : ℂ) :
```
(See above.)

**Comment by MichaelStollBayreuth** [comment]
You can indeed remove the two imports that were flagged by the AI (they just provide instances that can also be obtained without them).

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 5]
```diff
@@ -137,8 +139,148 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
   | empty => simp
   | cons _ _ ih => simp [mahlerMeasure_mul, ih]
 
-theorem logMahlerMeasure_mul_eq_add_logMahelerMeasure {p q : ℂ[X]} (hpq : p * q ≠ 0) :
+theorem logMahlerMeasure_mul_eq_add_logMahlerMeasure {p q : ℂ[X]} (hpq : p * q ≠ 0) :
     (p * q).logMahlerMeasure = p.logMahlerMeasure + q.logMahlerMeasure := by
   simp_all [logMahlerMeasure_eq_log_MahlerMeasure, mahlerMeasure_mul, log_mul]
 
+
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
```

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 6]
```diff
@@ -137,8 +140,146 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
...
+      simp only [Pi.ofNat_apply, neg_eq_zero, mul_eq_zero, Int.cast_eq_zero, log_eq_zero,
+        norm_eq_zero, or_iff_not_imp_right, Classical.not_imp, and_imp]
+      intro _ h _
+      by_cases hx : x = z
+      · rw [hx] at h ⊢
+        apply Function.locallyFinsuppWithin.apply_eq_zero_of_notMem
+          (divisor (fun x ↦ x - z) (closedBall 0 |1|))
+        grind [abs_one, mem_closedBall, dist_zero_right]
+      · exact hdiv0 hx
+    simp [this, posLog_eq_log_max_one <| norm_nonneg z, h1lez]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Here is a version that avoid most of the `simp only`s. Note also the use of `(· - z)` (to which I simplify `(X - C z).eval` right at the beginning).

```suggestion
open MeromorphicOn Metric in
/-- The logarithmic Mahler measure of `X - C z` is the `log⁺` of the absolute value of `z`. -/
@[simp]
theorem logMahlerMeasure_X_sub_C (z : ℂ) : (X - C z).logMahlerMeasure = log⁺ ‖z‖ := by
  rcases eq_or_ne z 0 with rfl | hz₀
  · simp [posLog_def]
  have hmeroOnB : MeromorphicOn (· - z) (closedBall 0 |1|) := id.sub <| const z
  simp_rw [logMahlerMeasure_def, eval_sub, eval_X, eval_C]
  rw [circleAverage_log_norm one_ne_zero hmeroOnB, abs_one,
  -- get rid of the `meromorphicTrailingCoeffAt`
    AnalyticAt.meromorphicTrailingCoeffAt_of_ne_zero (by fun_prop) (by simp [hz₀]),
    ← finsum_mem_support]
  set B := closedBall (0 : ℂ) 1
  -- separate cases depending on whether z is in the open `ball 0 1` or not
  by_cases hzBall : z ∈ ball 0 1;
  · have hzdiv1 := divisor_sub_const_self (show z ∈ B by grind [ball_subset_closedBall])
    suffices (fun u ↦ -(divisor (· - z) B u * log ‖u‖)).support = {z} by
      simp [this, hzdiv1, posLog_def]
      grind [mem_ball_zero_iff, log_nonpos, norm_nonneg]
    rw [Function.support_eq_iff]
    constructor
    · simp
      grind [mem_ball_zero_iff, norm_nonneg]
    · intro x hu
      rw [Set.mem_singleton_iff] at hu
      simp [divisor_sub_const_of_ne hu]
  · have h1lez : 1 ≤ ‖z‖ := by grind [mem_ball_zero_iff]
    suffices (fun u ↦ -(divisor (· - z) B u * log ‖u‖)).support = ∅ by
      simp [this, posLog_eq_log_max_one <| norm_nonneg z, h1lez]
    rw [Function.support_eq_empty_iff]
    ext x
    rcases eq_or_ne x z with rfl | hx
    · by_cases hB : x ∈ B
      · simp
        grind [mem_closedBall_zero_iff]
      · simpa using .inl <| Function.locallyFinsuppWithin.apply_eq_zero_of_notMem _ hB
    simpa using .inl <| divisor_sub_const_of_ne hx
```

With (put these in Mathlib.Analysis.Meromorphic.Divisor)
```lean
namespace MeromorphicOn

open WithTop

lemma divisor_sub_const_of_ne {U : Set ℂ} {z x : ℂ} (hx : x ≠ z) :
    divisor (· - z) U x = 0 := by
  by_cases hu : x ∈ U
  · rw [divisor_apply (show MeromorphicOn (· - z) U from fun_sub id <| const z) hu, ← untop₀_coe 0]
    congr
    exact (meromorphicOrderAt_eq_int_iff (by fun_prop)).mpr
      ⟨(· - z), analyticAt_id.fun_sub analyticAt_const, by simp [sub_ne_zero_of_ne hx]⟩
  · exact Function.locallyFinsuppWithin.apply_eq_zero_of_notMem _ hu

lemma divisor_sub_const_self {z : ℂ} {U : Set ℂ} (h : z ∈ U) :
    divisor (· - z) U z = 1 := by
  rw [divisor_apply (show MeromorphicOn (· - z) U from fun_sub id <| const z) h, ← untop₀_coe 1]
  congr
  exact (meromorphicOrderAt_eq_int_iff (by fun_prop)).mpr ⟨fun _ ↦ 1, analyticAt_const, by simp⟩

end MeromorphicOn
```
(I'm not sure whether `MeromorphicOn` is a good namespace for these, but I'd be reluctant to put them into the global namespace.)

Comment (fbarroero) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Thanks Michael!

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 7]
```diff
@@ -137,8 +140,114 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
...
+  rwa [posLog_eq_log_max_one (norm_nonneg z),
+    exp_log (mahlerMeasure_pos_of_ne_zero <| X_sub_C_ne_zero z),
+    exp_log (lt_of_lt_of_le zero_lt_one <| le_max_left 1 ‖z‖)] at this
+
+@[simp]
+theorem mahlerMeasure_X_add_C (z : ℂ) : (X + C z).mahlerMeasure = max 1 ‖z‖ := by
+  simp [← sub_neg_eq_add, ← map_neg]
+
+theorem mahlerMeasure_C_mul_X_add_C {a : ℂ} (ha : a ≠ 0) (b : ℂ) :
+    (C a * X + C b).mahlerMeasure = ‖a‖ * max 1 ‖a⁻¹ * b‖ := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Would it make sense to have a version saying `... = max ‖a‖ ‖b‖`? This looks a bit simpler and might be useful in applications.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 8]
```diff
@@ -137,8 +140,117 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
...
+@[simp]
+theorem logMahlerMeasure_X_add_C (z : ℂ) : (X + C z).logMahlerMeasure = log⁺ ‖z‖ := by
+  simp [← sub_neg_eq_add, ← map_neg]
+
+theorem logMahlerMeasure_C_mul_X_add_C {a : ℂ} (ha : a ≠ 0) (b : ℂ) :
+    (C a * X + C b).logMahlerMeasure = log ‖a‖ + log⁺ ‖a⁻¹ * b‖ := by
+  rw [show C a * X + C b = C a * (X + C (a⁻¹ * b)) by simp [mul_add, ← map_mul, ha],
+    logMahlerMeasure_C_mul ha (X_add_C_ne_zero (a⁻¹ * b)), logMahlerMeasure_X_add_C]
+
+theorem logMahlerMeasure_degree_eq_one {p : ℂ[X]} (h : p.degree = 1) : p.logMahlerMeasure =
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: This should probably be called `logMahlerMeasure_of_degree_eq_one`.

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 9]
```diff
@@ -6,8 +6,8 @@ Authors: Fabrizio Barroero
 
 import Mathlib.Analysis.Analytic.Polynomial
 import Mathlib.Analysis.CStarAlgebra.Classes
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]:
```suggestion
```
This import is not necessary.

**Comment by MichaelStollBayreuth** [comment]
LGTM now (modulo removing the unnecessary import).

maintainer delegate

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 10]
```diff
@@ -137,8 +139,117 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
...
+  set B := closedBall (0 : ℂ) 1
+  -- separate cases depending on whether z is in the open `ball 0 1` or not
+  by_cases hzBall : z ∈ ball 0 1
+  · have hzdiv1 := divisor_sub_const_self (show z ∈ B by grind [ball_subset_closedBall])
+    suffices (fun u ↦ -(divisor (· - z) B u * log ‖u‖)).support = {z} by
+      simp [this, hzdiv1, posLog_def]
+      grind [mem_ball_zero_iff, log_nonpos, norm_nonneg]
+    rw [Function.support_eq_iff]
+    constructor
+    · simp [hzdiv1]
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Non terminal `simp`. (it's probably fine, but let's see if it's reasonable to squeeze it)

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean [hunk 11]
```diff
@@ -137,8 +139,117 @@ theorem prod_mahlerMeasure_eq_mahlerMeasure_prod (s : Multiset ℂ[X]) :
...
+      rw [Set.mem_singleton_iff] at hu
+      simp [divisor_sub_const_of_ne hu]
+  · have h1lez : 1 ≤ ‖z‖ := by grind [mem_ball_zero_iff]
+    suffices (fun u ↦ -(divisor (· - z) B u * log ‖u‖)).support = ∅ by
+      simp [this, posLog_eq_log_max_one <| norm_nonneg z, h1lez]
+    rw [Function.support_eq_empty_iff]
+    ext x
+    rcases eq_or_ne x z with rfl | hx
+    · by_cases hB : x ∈ B
+      · simp
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Nonterminal `simp`

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Polynomial/MahlerMeasure.lean (hunk 10 above)
Comment (fbarroero) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: I thought that an unsqueezed simp is ok before a grind. In any case, the squeezed one is 
```
simp only [Set.mem_singleton_iff, ne_eq, neg_eq_zero, mul_eq_zero, Int.cast_eq_zero,
      log_eq_zero, norm_eq_zero, not_or, forall_eq, hzdiv1]
```
What should I do?

Comment (riccardobrasca) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: Yes, that's why I said it's probably fine. Do as you prefer.

Comment (fbarroero) [reply Mathlib/Analysis/Polynomial/MahlerMeasure.lean]: I managed to get rid of both of them.
Thanks
